US07696200B2
4-Tert-butoxycarbonylamino-3-nitro-benzoic acid ethyl ester (3.5 g, 11.3 mmol) was dissolved in ethanol (300 mL) and 10% palladium on carbon was added (0.45 g, 0.42 mmol). The mixture was evacuated and filled with hydrogen, then stirred at room temperature for 1 hour. The catalyst was filtered, washing with ethanol, and the solvent was evaporated. The crude 3-amino-4-tert-butoxycarbonylamino-benzoic acid ethyl ester thus obtained [3.1 g, 95%, MS (ISP): m/e=279.3 (M−H)] was used as such in the following reaction.

reactant | 4-Tert-butoxycarbonylamino-3-nitro-benzoic acid ethyl ester | 11.3 mmol, 3.5 g | C(C)OC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C14H18N2O6
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-amino-4-tert-butoxycarbonylamino-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C14H20N2O4
